US07781438B2
3-(3-Chloro-8-dimethylaminomethyl-naphthalen-2-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione
Potassium tert-butoxide (1.0 M in THF, 0.26 ml, 0.26 mmol, 3.0 equiv) was added at room temperature under an atmosphere of argon to a solution of (1-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester (24 mg, 0.11 mmol, 1.3 equiv) and of crude 2-(3-chloro-8-dimethylaminomethyl-naphthalen-2-yl)-acetamide (24 mg) in anhydrous tetrahydrofuran (2.5 ml, dried over molecular sieves). The reaction mixture was stirred for 1 hour at room temperature. It was then diluted with EtOAc and poured into a saturated aqueous NH4Cl solution. After three extractions with EtOAc, the combined organic layers were dried over Na2SO4, filtered and concentrated in vacuo. Purification of the residue via preparative HPLC afforded the title compound (4.9 mg, 4% for two steps) as its trifluoroacetate salt. 1H NMR (400 MHz, d6-DMSO): δ=11.20 (s, 1H), 8.56 (s, 1H), 8.15 (s, 1H), 8.02 (s, 1H), 8.01-7.92 (m, 1H), 7.80-7.70 (m, 1H), 7.62-7.57 (m, 1H), 7.42 (d, J=8.1 Hz, 1H), 7.00 (t, J=7.9 Hz, 1H), 6.45 (t, J=7.5 Hz, 1H), 6.23 (d, J=8.0 Hz, 1H), 4.85-4.65 (br d, 2H), 3.87 (s, 3H), 2,85 (br s, 3H), 2.76 (br s, 3H). MS (ES+): 444 (M+H)+.

reactant | Potassium tert-butoxide | 0.26 mmol, 1.0 M, 0.26 ml, 3.0 equiv | CC(C)([O-])C.[K+]
reactant | (1-methyl-1H-indol-3-yl)-oxo-acetic acid methyl ester | 0.11 mmol, 24 mg, 1.3 equiv | COC(C(=O)C1=CN(C2=CC=CC=C12)C)=O | C12H11NO3
reactant | 2-(3-chloro-8-dimethylaminomethyl-naphthalen-2-yl)-acetamide | 24 mg | ClC=1C(=CC2=C(C=CC=C2C1)CN(C)C)CC(=O)N | C15H17ClN2O
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 2.5 ml | O1CCCC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-Chloro-8-dimethylaminomethyl-naphthalen-2-yl)-4-(1-methyl-1H-indol-3-yl)-pyrrole-2,5-dione | 4.9 mg, 4% | ClC=1C(=CC2=C(C=CC=C2C1)CN(C)C)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C26H22ClN3O2
